US04760064
To a suspension of 6-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]-3,4-dihydrocarbostyril (7.5 g) in DMF (75 ml) was added sodium hydride (60% in oil, 0.83 g) and the mixture was stirred at 80° to 90° C. for one hour. After cooling to room temperature, the mixture was cooled to -10° C. and a solution of benzoic anhydride (5.06 g) in tetrahydrofuran (20 ml) was added dropwise thereto with stirring. After completion of addition, the mixture was stirred at the same temperature for one hour, poured into water and extracted with ethyl acetate. The extract was washed successively with water and saturated saline solution, dried and evaporated under reduced pressure. The resultant residue was purified by silica-gel column chromatography [eluent:dichloromethane:methanol=100:0 to 100:1.5] to give 1-benzoyl-6-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]-3,4-dihydrocarbostyril (4.0 g).

reactant | 6-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]-3,4-dihydrocarbostyril | 7.5 g | COC=1C=C(C(=O)N2CCN(CC2)C=2C=C3CCC(NC3=CC2)=O)C=CC1OC | C22H25N3O4
reactant | sodium hydride | 0.83 g | [H-].[Na+]
reactant | benzoic anhydride | 5.06 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
reactant | water | O | H2O
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-benzoyl-6-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]-3,4-dihydrocarbostyril | 4.0 g | C(C1=CC=CC=C1)(=O)N1C(=O)CCC2=CC(=CC=C12)N1CCN(CC1)C(C1=CC(=C(C=C1)OC)OC)=O | C29H29N3O5
